US08067447B2
To a stirred solution of 5-formyl-N,N-dimethyl-1H-indole-1-carboxamide (0.63 g, 2.9 mmol) in anhydrous THF (5 mL) was added phenyl magnesium bromide solution (3 M in diethyl ether, 1.1 mL, 3.3 mmol) at −78° C. under argon. The reaction mixture was stirred at −78° C. for 1 hr, at rt for 1 hr and quenched by the slow addition of saturated aq ammonium chloride aqueous solution (10 mL) Water (10 mL) was added, the reaction mixture was extracted with ethyl acetate (20 mL) dried (Na2SO4), filtered through a pad of silica gel, and concentrated to give 5-(hydroxy(phenyl)methyl)-N,N-dimethyl-1H-indole-1-carboxamide (0.9 g, 3 mmol, 100% yield) as a syrup, the NMR spectrum of which was consistent with the desired structure.

reactant | 5-formyl-N,N-dimethyl-1H-indole-1-carboxamide | 2.9 mmol, 0.63 g | C(=O)C=1C=C2C=CN(C2=CC1)C(=O)N(C)C | C12H12N2O2
reactant | phenyl magnesium bromide | 3.3 mmol, 3 M, 1.1 mL | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(hydroxy(phenyl)methyl)-N,N-dimethyl-1H-indole-1-carboxamide | 3 mmol, 0.9 g, 100% yield | OC(C=1C=C2C=CN(C2=CC1)C(=O)N(C)C)C1=CC=CC=C1 | C18H18N2O2
